US04346090
Trimethylphosphonoacetate (0.53 mole) is added dropwise with stirring to a suspension of sodium hydride (0.48 mole, 50% dispersion in oil) in 250 ml of tetrahydrofuran at 30°-35° C. After the addition, the reaction is stirred for one hr at 20°-30° C. To this reaction mixture, 2-chloro-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one[0.16 mole, described by S. O. Winthrop, et al., J. Org. Chem., 27, 230 (1962)] in 400 ml of tetrahydrofuran is added. After refluxing for 20 hr the red colored solution is cooled to 0° to 5° C. and water is added dropwise. The aqueous solution is evaporated to remove most of the tetrahydrofuran and extracted with ethyl acetate. The organic phase is dried over magnesium sulfate and evaporated. The residue is subjected to chromatography on silica gel using benzene-hexane (1:1) and the eluates are evaporated to give 2-chloro-10,11-dihydro-5H-dibenzo-[a,d]cyclohepten-5-ylideneacetic acid ethyl ester. The latter compound (11.0 g) is dissolved in ethanol (110 ml) and the solution is added to 10% aqueous potassium hydroxide (110 ml). The resulting solution is refluxed for 3 hr. After the removal of the ethanol by evaporation, the aqueous phase is washed with diethyl ether, adjusted to pH 2 with conc. hydrochloric acid and extracted with chloroform. The chloroform extract is washed with water, dried over magnesium sulfate and evaporated. The residue is crystallized from diethyl ether-hexane to give the title compound as crystals, mp 155°-175° C.

reactant | Trimethylphosphonoacetate | 0.53 mole | CC(C)(C(=O)[O-])P(=O)(O)OC
reactant | sodium hydride | 0.48 mole | [H-].[Na+]
reactant | 2-chloro-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one | ClC1=CC2=C(C(C3=C(CC2)C=CC=C3)=O)C=C1 | C15H11ClO
reactant | water | O | H2O
reactant | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 2-chloro-10,11-dihydro-5H-dibenzo-[a,d]cyclohepten-5-ylideneacetic acid ethyl ester | C(C)OC(C=C1C2=C(CCC3=C1C=CC(=C3)Cl)C=CC=C2)=O | C19H17ClO2
